US05360808
1,6-Dihydro-1-[2-(2-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid
To a 10 ml round bottomed flask fitted with a magnetic stirrer bar was added 1,6-dihydro-1-[2-(2-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid methyl ester (0.177 g, 0.59 mmol), methanol (1.4 ml), water (1.4 ml), and 15% aqueous sodium carbonate (1.4 ml). The resulting suspension was heated in a 60° C. oil bath for 1 hour during which time the mixture was completely solvated. Upon cooling to room temperature, acetic acid was added dropwise, with stirring, to a final pH of 5.5. The precipitated product was recovered by filtration, washed with water, and dried at 50° C. under high vacuum, MP: 266°-268° C.

reactant | 1,6-dihydro-1-[2-(2-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid methyl ester | 0.59 mmol, 0.177 g | COC(=O)C1=CN(C(C=C1)=O)CCNC(=O)C1=NC=CC=C1 | C15H15N3O4
reactant | methanol | 1.4 ml | CO | CH4O
reactant | water | 1.4 ml | O | H2O
reactant | sodium carbonate | 1.4 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,6-Dihydro-1-[2-(2-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid | N1=C(C=CC=C1)C(=O)NCCN1C=C(C=CC1=O)C(=O)O | C14H13N3O4
